US07612114B2
6-{2-[5-(2-Diisopropylaminoethoxy)-1,3-dihydroisoindol-2-yl]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2,3-dihydro-1H-isoindol-5-ol and (2-chloroethyl)diisopropylamine hydrochloride according to an analogous synthetic method to Preparation Example 40, diisopropyl{2-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2,3-dihydro-1H-isoindol-5-yloxy}ethyl}amine (126 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (62 mg).

reactant | 2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2,3-dihydro-1H-isoindol-5-ol | COC=1C=CC(=C(C1)N1CC2=CC=C(C=C2C1)O)C1CC2=CC=C(C=C2CC1)OC | C26H27NO3
reactant | (2-chloroethyl)diisopropylamine hydrochloride | Cl.ClCCN(C(C)C)C(C)C
reactant | diisopropyl{2-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2,3-dihydro-1H-isoindol-5-yloxy}ethyl}amine | 126 mg | C(C)(C)N(CCOC=1C=C2CN(CC2=CC1)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)C(C)C | C34H44N2O3
product | 6-{2-[5-(2-Diisopropylaminoethoxy)-1,3-dihydroisoindol-2-yl]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 62 mg | C(C)(C)N(CCOC=1C=C2CN(CC2=CC1)C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)C(C)C | C32H40N2O3
